US07521062B2
To a solution of DMSO (2.6 equivalents) in dry DCM, cooled to −78° C. under N2 was added oxalyl chloride (1.1 equivalents) in DCM drop-wise. The solution was stirred at −78° C. for 5 minutes before a solution of 4-[4-(4-methylpiperazin-1-yl)phenoxymethyl]benzyl alcohol (1 equivalent) in DCM was added drop-wise, and allowed to stir at −78° C. for another 30 minutes. Triethylamine (2.5 equivalents) was slowly dripped in before allowing the solution to reach ambient temperatures. The solution was washed with aqueous NaHCO3 and brine, dried over MgSO4 and concentrated to provide the crude 4-[4-(4-methylpiperazin-1-yl)phenoxymethyl]benzaldehyde which was converted to thiosemicarbazones according to Scheme 2.

reactant | DMSO | 2.6 equivalents | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 1.1 equivalents | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-[4-(4-methylpiperazin-1-yl)phenoxymethyl]benzyl alcohol | 1 equivalent | CN1CCN(CC1)C1=CC=C(OCC2=CC=C(CO)C=C2)C=C1 | C19H24N2O2
reactant | Triethylamine | 2.5 equivalents | C(C)N(CC)CC | C6H15N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 4-[4-(4-methylpiperazin-1-yl)phenoxymethyl]benzaldehyde | CN1CCN(CC1)C1=CC=C(OCC2=CC=C(C=O)C=C2)C=C1 | C19H22N2O2
